US04478842
Treatment of 33 mg of 1-(3-methoxycarbonylprop-2-ynyl)-3-methyl-2-(3-pyridyl)indole in 1 ml of methanol with 0.3 ml of aqueous 1 N lithium hydroxide at room temperature yields 1-(3-carboxyprop-2-ynyl)-3-methyl-2-(3-pyridyl)indole; IR 1720 cm1.

reactant | lithium hydroxide | 1 N | [OH-].[Li+]
reactant | 1-(3-carboxyprop-2-ynyl)-3-methyl-2-(3-pyridyl)indole | C(=O)(O)C#CCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C18H14N2O2
reactant | methanol | 1 ml | CO | CH4O
product | 1-(3-methoxycarbonylprop-2-ynyl)-3-methyl-2-(3-pyridyl)indole | 33 mg | COC(=O)C#CCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C19H16N2O2
